* /Users/manoelribeiroalmeida/dev/trit/LTspice/BFTA.asc
.subckt BFTA a b vcc vee cin cout s gnd
XU5 a b vcc vee N001 0 TXOR
XU6 N001 cin vcc vee s 0 TXOR
XU1 a b vcc vee N003 0 TAND
XU2 N001 cin vcc vee N002 0 TAND
XU3 N002 N003 vcc vee cout 0 TOR
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TAND.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TXOR.sub
.backanno
.ends
